US07888366B2
2-Fluoro-6-iodobenzonitrile (700 mg; 2.83 mmol) is dissolved in dimethylacetamide (5 mL) with guanidine carbonate (766 mg; 4.25 mmol). The vessel is purged with N2, sealed, and heated to 165° C. for 5 hours. After cooling to room temperature, the reaction mixture is placed in the freezer overnight. The precipitate which has formed is removed by filtration and purified by recrystallization from 50% EtOH/water. The resulting solids are filtered and dried at room temperature to yield 158 mg of 5-iodoquinazoline-2,4-diamine.

reactant | 2-Fluoro-6-iodobenzonitrile | 2.83 mmol, 700 mg | FC1=C(C#N)C(=CC=C1)I | C7H3FIN
reactant | guanidine carbonate | 4.25 mmol, 766 mg | C(O)(O)=O.NC(=N)N
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
product | 5-iodoquinazoline-2,4-diamine | 158 mg | IC1=C2C(=NC(=NC2=CC=C1)N)N | C8H7IN4
